US09029409B2
To a cold solution of N-(4-fluoro-3-methoxybenzyl)-6-((hydroxyimino)methyl)-2-methylpyrimidine-4-carboxamide (0.2 g, 0.628 mmol, Preparation #9,) and 1-trityl-4-vinyl-1H-imidazole (Organic Letters 2001, 3, 1319-1322) in DCM (20 mL) was added sodium hypochlorite solution (2.0 mL, Sd Fine Chem.) dropwise for about 10 min at RT and stirred for about another 1 h. The reaction mixture was diluted with DCM (30 mL) and washed with water (2×20 mL). The organic layer was dried over sodium sulphate and evaporated to dryness under reduced pressure. The resulting mixture was purified by silica gel chromatography eluting with 60 to 70% of EtOAc in hexane. Relevant fractions containing the target compound were combined and evaporated to dryness under reduced pressure to afford N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-trityl-1H-imidazol-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide as a light yellow solid 0.154 g, (37.5%). To a stirred solution of N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-trityl-1H-imidazol-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide(0.14 g, 0.24 mmol) in methanol (15 mL) was added concentrated HCl (1.2 mL). The reaction mixture was stirred at RT for about 4 h and excess solvent was evaporated under reduced pressure. The reaction mixture was quenched with 1N NaOH solution (5 mL), diluted with water (10 mL) and the product extracted with EtOAc (2×10 mL). The combined organic layers were washed successively with water (1×30 mL) and brine (1×20 mL). The organic layer was dried over sodium sulphate and evaporated to dryness under reduced pressure. The crude material was purified by preparative TLC (7% methanol in DCM) to afford 6-(5-(1H-imidazol-4-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide 0.039 g (41.4%); 1H NMR (400 MHz, DMSO): δ 8.178 (s, 1), 12.121 (s, 1H), 9.494 (m, 1H), 7.65 (s, 1H), 7.305 (s, 1H), 7.186-7.146 (m, 2H), 6.910-6.905 (m, 1H), 5.845-5.795 (m, 1H), 4.490-4.475 (d, 2H, J=6 Hz), 3.81 (s, 3H), 3.715-3.692 (m, 2H), 2.77 (s, 3H); MS m/z: 410.40 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-trityl-1H-imidazol-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide | 0.24 mmol, 0.14 g | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C)C=C1)OC | C39H33FN6O3
reactant | HCl | 1.2 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 6-(5-(1H-imidazol-4-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 0.039 g, 41.4% | N1C=NC(=C1)C1CC(=NO1)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC | C20H19FN6O3
